US07405210B2
Preparation 64: 3-(2-Methyl-5-nitropyridin-4-yl)-2-oxopropionic acid ethyl ester
To a solution of potassium ethoxide (0.262 g, 2.96 mmol) in diethyl ether (10 mL) and ethanol (1 mL) was added diethyl oxalate (0.404 mL, 2.96 mmol) in one portion and the resulting solution stirred for 10 min at rt. 2,4-Dimethyl-5-nitropyridine (Preparation 63, 0.400 g, 2.63 mmol) was added as a suspension in diethyl ether (1 mL)/ethanol (1.5 mL) and stirring continued for 16 h at rt. The mixture was filtered, washing with cold diethyl ether. The collected precipitate was dissolved in water and the pH adjusted to 4 by the addition of glacial acetic acid. The resulting precipitate was collected by filtration and air dried. The solid was partitioned between ethyl acetate (150 mL) and water (50 mL) and the layers separated. The aqueous layer was extracted with ethyl acetate (3×20 mL) and the combined organics washed with brine (50 mL), dried (MgSO4), filtered and concentrated under reduced pressure to give the title compound as a red solid which required no further purification. δH (CDCl3): 1.40 (3H, t), 4.40 (2H, q), 4.52 (2H, s), 7.11 (1H, s), 9.25 (1H, s).

reactant | potassium ethoxide | 2.96 mmol, 0.262 g | [O-]CC.[K+]
reactant | diethyl oxalate | 2.96 mmol, 0.404 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2,4-Dimethyl-5-nitropyridine | 2.63 mmol, 0.400 g | CC1=NC=C(C(=C1)C)[N+](=O)[O-] | C7H8N2O2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | diethyl ether | 1 mL | C(C)OCC | C4H10O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 3-(2-Methyl-5-nitropyridin-4-yl)-2-oxopropionic acid ethyl ester | C(C)OC(C(CC1=CC(=NC=C1[N+](=O)[O-])C)=O)=O | C11H12N2O5
